US08003654B2
15) Synthesis of ethyl-(2-methyl-pyrimidin-4-ylmethyl)-amine
prepared by reaction of 2-methyl-pyrimidin-4-carbaldehyde with 2M ethylamine in THF.

reactant | 2-methyl-pyrimidin-4-carbaldehyde | CC1=NC=CC(=N1)C=O | C6H6N2O
reactant | ethylamine | 2M | C(C)N | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | ethyl-(2-methyl-pyrimidin-4-ylmethyl)-amine | C(C)NCC1=NC(=NC=C1)C | C8H13N3
